US04963580
Preparation of 6-propyl-2,3-Dihydrobenzothiophene
A solution of 6-allyl-2,3-dihydrobenzothiophene (95 mg, 0.49 mmole) in 10 mL absolute ethanol was hydrogenated at 40 psi over 20 mg 10% Pd/C at room temperature overnight. TLC (90/10, hexane/EtOAc) indicated the reaction to be complete. The catalyst was filtered off through a celite pad and the filtrate concentrated down to afford 96 mg crude product as an oil. Purification by flash chromatography (90/10, hexane/EtOAc) afforded 75 mg white solids mp 58°-60° C. (78%).

reactant | 6-allyl-2,3-dihydrobenzothiophene | 0.49 mmole, 95 mg | C(C=C)C1=CC2=C(CCS2)C=C1 | C11H12S
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 6-propyl-2,3-Dihydrobenzothiophene | 75 mg, 78% | C(CC)C1=CC2=C(CCS2)C=C1 | C11H14S
